US04074046
An autoclave is charged with 13.45 g. o-nitrophenyl cinnamate, 2.5 g. 5% palladium-on-carbon, 0.40 g. ferric chloride and 90 ml. anhydrous acetonitrile, pressurized with carbon monoxide to 5000 psig., and heated at 190° C. for 6 hours. After the catalyst is removed by filtration, analysis of the reaction mixture by vapor phase chromatography shows that 2-styrylbenzoxazole is the major product. The 2-styrylbenzoxazole is isolated by chromatography on alumina using benzene as the eluent. After recrystallization from petroleum ether, it melts at 78°-79° C. and is identical with an authentic sample of 2-styrylbenzoxazole by mixed melting point, infrared spectrum and vapor phase chromatography.

reactant | o-nitrophenyl cinnamate | C(C=CC1=CC=CC=C1)(=O)OC1=C(C=CC=C1)[N+](=O)[O-] | C15H11NO4
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-styrylbenzoxazole | C(=CC1=CC=CC=C1)C=1OC2=C(N1)C=CC=C2 | C15H11NO
